US08334301B2
tert-butyl ({4-(2-fluorophenyl)-5-[(3-methoxyphenyl)thio]-2-thienyl}methyl)methylcarbamate
tert-Butyl ({4-bromo-5-[(3-methoxyphenyl)thio]-2-thienyl}methyl)methylcarbamate (596 mg), (2-fluorophenyl)boronic acid (225 mg), sodium carbonate (341 mg) and tetrakis(triphenylphosphine)palladium (0) (155 mg) were suspended in a mixture of 1,2-dimethoxyethane (10 mL) and water (4 mL), and the suspension was stirred at 105° C. for 4 hr under a nitrogen atmosphere. The reaction mixture was allowed to cool to room temperature, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→9:1) to give the title compound as a colorless oil (yield 459 mg, yield 75%).

reactant | tert-Butyl ({4-bromo-5-[(3-methoxyphenyl)thio]-2-thienyl}methyl)methylcarbamate | 596 mg | BrC=1C=C(SC1SC1=CC(=CC=C1)OC)CN(C(OC(C)(C)C)=O)C | C18H22BrNO3S2
reactant | (2-fluorophenyl)boronic acid | 225 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 341 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 155 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl ({4-(2-fluorophenyl)-5-[(3-methoxyphenyl)thio]-2-thienyl}methyl)methylcarbamate | yield 459 mg, yield 75% | FC1=C(C=CC=C1)C=1C=C(SC1SC1=CC(=CC=C1)OC)CN(C(OC(C)(C)C)=O)C | C24H26FNO3S2
